US06683055B1
a) trans-4-[N-(o-Nitrophenylsulfonyl)]aminomethylcyclohexane-carboxylic Acid
A solution of 29.9 g (0.135 mol) of o-nitrobenzenesulfonyl chloride in 150 ml of dioxane and 150 ml of 1 N NaOH was added simultaneously and dropwise at 4° C. (ice bath) to a solution of 14.13 g (0.09 mol) of trans-4-(aminomethyl)cyclohexanecarboxylic acid in a two-phase system comprising 90 ml of 1 N NaOH and 90 ml of dioxane. After the slightly exothermic reaction had died down, stirring was carried out for 30 minutes at room temperature, the precipitate which separated out was filtered off with suction and washed with a little ice water and the filtrate was evaporated down under reduced pressure, further precipitation of salt occurring. The combined amounts of salt were digested with ether, suspended in water, acidified with 1 M KHSO4 solution and extracted with ethyl acetate. The ethyl acetate phase was washed with sodium chloride solution, dried over Na2SO4 and evaporated down under reduced pressure.

reactant | o-nitrobenzenesulfonyl chloride | 0.135 mol, 29.9 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | trans-4-(aminomethyl)cyclohexanecarboxylic acid | 0.09 mol, 14.13 g | NC[C@@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1 N, 150 ml | [OH-].[Na+]
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
solvent | NaOH | 1 N, 90 ml | [OH-].[Na+]
product | trans-4-[N-(o-Nitrophenylsulfonyl)]aminomethylcyclohexane-carboxylic Acid | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C14H18N2O6S
